US04205085
Ethyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate
A mixture of 18.5 g. of 15-(trifluoromethyl)pentadecyl bromide, 17.0 g. of ethyl 4-aminobenzoate, 7.1 g. of potassium carbonate, and 75 ml. of hexamethylphosphoramide is stirred for 16 hours at 120° C., allowed to cool, diluted with water, and filtered. The solid is dissolved in methylene chloride and the solution is dried over anhydrous magnesium sulfate and evaporated. The residual brown oil is crystallized from ethanol and recrystallized from acetonitrile to yield the product as a white solid.

reactant | 15-(trifluoromethyl)pentadecyl bromide | FC(CCCCCCCCCCCCCCCBr)(F)F | C16H30BrF3
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)(F)F | C25H40F3NO2
